US05686445
2-Chloro-5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine
A solution of 2.1 g of 2-chloro-5-(4-nitrobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine in 400 ml of ethyl acetate-ethanol (1:1) and 0.25 g of palladium-on-carbon is hydrogenated in a Parr hydrogenator under 38 pounds per square inch of hydrogen. The mixture is filtered through diatomaceous earth and the filtrate concentrated to dryness. The solid (1.94 g) is dissolved in dichloromethane and the solution filtered through a thin pad of hydrous magnesium silicate. The filter pad is washed with dichloromethane and the filtrate concentrated. The residue is crystallized from dichloromethane-hexane to give 1.43 g of crystals, m.p. 211°-214° C.

reactant | 2-chloro-5-(4-nitrobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 2.1 g | ClC1=CC2=C(N(CC3=C(C2)C=CC=C3)C(C3=CC=C(C=C3)[N+](=O)[O-])=O)C=C1 | C21H15ClN2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate ethanol | 400 ml | C(C)(=O)OCC.C(C)O
catalyst | palladium-on-carbon | 0.25 g | [Pd] | Pd
product | 2-Chloro-5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 1.43 g | ClC1=CC2=C(N(CC3=C(C2)C=CC=C3)C(C3=CC=C(C=C3)N)=O)C=C1 | C21H17ClN2O
